US06939479B2
2,6-Bis-(4-hexyloxy-benzylidene)-cyclohexanone (3a)
Cyclohexanone (2.6 ml, 0.025 mol) was dissolved in ethanol (5 ml), and was added to sodium hydroxide (0.38 g, 0.01 mol) dissolved in water (6 ml) and ethanol (2 ml) and was left to stir for 20 min. 4-Hexyloxybenzaldehyde (10 ml, 0.048 mol), dissolved in ethanol (40 ml), was added and the mixture was stirred at room temperature for 16 h. A yellow crystalline solid was isolated by vacuum filtration and was washed with cold ethanol and dried in a vacuum oven. Yield=4.32 g, 36%. 1H NMR and 13C NMR showed expected signals.

reactant | Cyclohexanone | 0.025 mol, 2.6 ml | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | 0.01 mol, 0.38 g | [OH-].[Na+]
reactant | 4-Hexyloxybenzaldehyde | 0.048 mol, 10 ml | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2,6-Bis-(4-hexyloxy-benzylidene)-cyclohexanone | C(CCCCC)OC1=CC=C(C=C2C(C(CCC2)=CC2=CC=C(C=C2)OCCCCCC)=O)C=C1 | C32H42O3
